US04053608
Synthesis of N-acetyl 5-nitronicotinamide (No. 28)
In 10 ml of dimethylformamide was dissolved 0.29 g of acetamide, and to this solution was added 0.24 g of NaH (mineral oil 50%). The mixture was then stirred at room temperature for 2 hours. To the mixture was added 0.93 g of 5-nitronicotinic acid chloride, and this was stirred overnight at room temperature. The solvent was evaporated under reduced pressure. The obtained residue was, after addition of water, extracted with ethyl acetate. The extract was dried over sodium sulfate and evaporated to remove the solvent. The obtained product was purified on a silica gel column and recrystallized from ethyl acetate - petroleum ether to give 0.07 g of the desired compound melting at 162° - 163° C.

reactant | acetamide | 0.29 g | C(C)(=O)N | C2H5NO
reactant | NaH | 0.24 g | [H-].[Na+]
reactant | 5-nitronicotinic acid chloride | 0.93 g | [N+](=O)([O-])C=1C=NC=C(C(=O)Cl)C1 | C6H3ClN2O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-acetyl 5-nitronicotinamide | 0.07 g | C(C)(=O)NC(C1=CN=CC(=C1)[N+](=O)[O-])=O | C8H7N3O4
